* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Tline Test.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 0 PULSE(0 1 50n 1n 1n .25u .5u)
R1 N002 N001 30
T1 N002 0 N003 N004 Td=50n Z0=50
R3 N003 N004 50
C1 N003 N004 1p
R2 N004 0 1000000000
.tran 300n
.backanno
.end
